US07179926B2
2-Chloroacetophenone in acetone (3.10 g, 200 ml) was added potassium thioacetate (2.80 g, 1.2 equivalents) and the reaction mixture was stirred overnight at RT. The salt precipitate was filtered off and the filtrate was concentrated. The residue was purified by flash chromatography on silica gel to give 2.04 g of α-thioacetyl acetophenone as orange reddish oil. 1H NMR (500 MHz, CHLOROFORM-D) δ ppm 7.98–8.02 (2 H, m) 7.60 (1 H, t, J=7.48 Hz) 7.48 (2 H, t, J=7.78 Hz) 4.40 (2 H, s) 2.41 (3 H, s). MS [ESI, MNa+] m/z calcd for C10H10O2SNa 217.04, found 217.16.

reactant | 2-Chloroacetophenone | ClCC(=O)C1=CC=CC=C1 | C8H7ClO
reactant | potassium thioacetate | 2.80 g, 1.2 equivalents | C(C)(=S)[O-].[K+]
solvent | acetone | 200 ml, 3.10 g | CC(=O)C | C3H6O
product | α-thioacetyl acetophenone | 2.04 g | C(C)(=S)CC(=O)C1=CC=CC=C1 | C10H10OS
